US06579982B1
Diethyl-α-bromo-α-n-butylmalonate
Diethyl-n-butylmalonate (32.2 gm) was dissolved in methylene chloride (200 ml) and treated, dropwise, with a solution of bromine (24.0 gm) dissolved in methylene chloride (25 ml). The resultant mixture was stirred (1 hour, room temperature) whereupon an orange coloration persisted. The solvent was removed under vacuum, and the residue distilled under high vacuum to give the desired product as a clear oil (boiling point temperature 105° C. to 110° C.; 36.0 gm). 1H NMR (CDCl3): δ=0.89-0.92 (t, 3H); 1.25-1.29 (t, 6H); 1.35-1.37 (m, 4H); 2.2-2.26 (m, 2H); 4.23-4.29 (q, 4H); m/z=295 and 297 (M+).

reactant | Diethyl-n-butylmalonate | 32.2 gm | C(C)OC(C(C(=O)OCC)CCCC)=O | C11H20O4
reactant | bromine | 24.0 gm | BrBr | Br2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | Diethyl-α-bromo-α-n-butylmalonate | 36.0 gm | C(C)OC(C(C(=O)OCC)(CCCC)Br)=O | C11H19BrO4
